US04008258
To 1.56 g. of 3,7,11-trimethyldodec-2-enoic acid, under nitrogen, is added dry benzene and oxalyl chloride (2.4 g.). The mixture is stirred 2 hours and then concentrated in vacuo. To the concentrate is added fresh dry benzene and 1.6 g. of cyclopropylmethyl alcohol and the mixture stirred overnight at room temperature. The reaction is worked up by pouring into water and extracting with ether. The organic phase is washed with brine, stirred over neutral alumina (Act. III), concentrated under reduced pressure and purified by distillation to yield cyclopropylmethyl 3,7,11-trimethyldodec-2-enoate, b.p. 90° (bath) at 0.005 mm.

reactant | 3,7,11-trimethyldodec-2-enoic acid | CC(=CC(=O)O)CCCC(CCCC(C)C)C | C15H28O2
reactant | oxalyl chloride | 2.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | cyclopropylmethyl 3,7,11-trimethyldodec-2-enoate | CC(=CC(=O)OCC1CC1)CCCC(CCCC(C)C)C | C19H34O2
